US09278968B2
Under an argon atmosphere, to a solution of 2.18 g of methyl 3-(2,2-dimethyl-5-nitro-1,3-dioxan-5-yl)benzoate in 26 ml of ethanol and 7 ml of THF was added a suspension of Raney nickel (manufactured by Aldrich, 1.2 ml of a suspension was washed with water and ethanol) in 5 ml of ethanol, followed by stirring at room temperature for 7 hours under a hydrogen atmosphere of 4 atm. The reaction mixture was filtered over Celite and the liquid was concentrated under reduced pressure. To a solution of the obtained residue in 26 ml of ethanol and 7 ml of THF was added a suspension of Raney nickel (manufactured by Aldrich, 1.2 ml of a suspension was washed with water and ethanol) in 5 ml of ethanol under an argon atmosphere, followed by stirring at room temperature for 16 hours under a hydrogen atmosphere of 4 atm. The reaction mixture was filtered over Celite and the filtrate was concentrated under reduced pressure to obtain 2.09 g of methyl 3-(5-amino-2,2-dimethyl-1,3-dioxan-5-yl)benzoate.

reactant | methyl 3-(2,2-dimethyl-5-nitro-1,3-dioxan-5-yl)benzoate | 2.18 g | CC1(OCC(CO1)([N+](=O)[O-])C=1C=C(C(=O)OC)C=CC1)C | C14H17NO6
reactant | water | O | H2O
solvent | ethanol | 26 ml | C(C)O | C2H6O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | methyl 3-(5-amino-2,2-dimethyl-1,3-dioxan-5-yl)benzoate | 2.09 g | NC1(COC(OC1)(C)C)C=1C=C(C(=O)OC)C=CC1 | C14H19NO4
